US06747079B2
Si(OC2H5)4;
Si(O-n-C3H7)4; Si(O—isoC3H7)4; Si(OC2H4OCH3)4; CH3Si(OCH3)3; CH2═CHSi(OCH3)3; CH3Si(OC2H4OCH3)3; ClCH2Si(OC2H5)3; CH2═CHSi(OC2H4OCH3)3.

reactant | Si(O-n-C3H7)4 | [Si](OCCC)(OCCC)(OCCC)OCCC | C12H28O4Si
reactant | Si(O—isoC3H7)4 | [Si](OC(C)C)(OC(C)C)(OC(C)C)OC(C)C | C12H28O4Si
reactant | Si(OC2H4OCH3)4 | [Si](OCCOC)(OCCOC)(OCCOC)OCCOC | C12H28O8Si
reactant | CH3Si(OCH3)3 | C[Si](OC)(OC)OC | C4H12O3Si
reactant | CH2═CHSi(OCH3)3 | C=C[Si](OC)(OC)OC | C5H12O3Si
reactant | CH3Si(OC2H4OCH3)3 | C[Si](OCCOC)(OCCOC)OCCOC | C10H24O6Si
reactant | ClCH2Si(OC2H5)3 | ClC[Si](OCC)(OCC)OCC | C7H17ClO3Si
reactant | CH2═CHSi(OC2H4OCH3)3 | C=C[Si](OCCOC)(OCCOC)OCCOC | C11H24O6Si
product | Si(OC2H5)4 | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
